US08669234B2
4′-Chloro-biphenyl-3-ylamine hydrochloride (1 g, 4.16 mmol), Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (1.08 g, 5.00 mmol) and HATU (2.06 g, 5.41 mmol) were suspended in DMF (20 mL) and DIPEA (2.20 mL, 12.5 mmol) was added. The mixture was stirred for 16 hours before being diluted with ethyl acetate (250 mL) and washed with water and brine. The organic layer was dried over magnesium sulfate and concentrated. The crude residue was purified by silica column chromatography (25% to 45% EtOAc/hexanes) to provide 2-(4′-Chloro-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.66 g, 99%).

reactant | 4′-Chloro-biphenyl-3-ylamine hydrochloride | 4.16 mmol, 1 g | Cl.ClC1=CC=C(C=C1)C1=CC(=CC=C1)N
reactant | Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 5.00 mmol, 1.08 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)O | C10H17NO4
reactant | HATU | 5.41 mmol, 2.06 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 12.5 mmol, 2.20 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4′-Chloro-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.66 g, 99% | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC=1C=C(C=CC1)C1=CC=C(C=C1)Cl)=O | C22H25ClN2O3
